US08440666B2
4-[({[5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]acetyl}amino)methyl]pyridine-2-carboxamide
2-[5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-[(2-cyanopyridin-4-yl)methyl]acetamide (34.0 mg, 0.07 mmol) was dissolved in ethanol/30% aqueous potassium hydroxide (4 mL, 1:1) and stirred at 80° C. for 2 hours. After cooling, ethyl acetate was added, and the organic layer was washed with saturated aqueous ammonium chloride, dried over anhydrous sodium sulfate and evaporated under reduced pressure. The resulting residue was purified by silica gel column chromatography (ethyl acetate/methanol=8/1) to give the desired product.

reactant | 2-[5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]-N-[(2-cyanopyridin-4-yl)methyl]acetamide | 0.07 mmol, 34.0 mg | BrC1=C(C=NN(C1=O)CC(=O)NCC1=CC(=NC=C1)C#N)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C23H27BrN6O2
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethanol | 4 mL | C(C)O | C2H6O
product | 4-[({[5-Bromo-6-oxo-4-{[(1R,2R,3R,5S)-2,6,6-trimethylbicyclo[3.1.1]hept-3-yl]amino}pyridazin-1(6H)-yl]acetyl}amino)methyl]pyridine-2-carboxamide | Yield: 6% | BrC1=C(C=NN(C1=O)CC(=O)NCC1=CC(=NC=C1)C(=O)N)N[C@H]1[C@@H]([C@@H]2C([C@H](C1)C2)(C)C)C | C23H29BrN6O3
